US09145429B2
1v. 5-Chloro-6-(1-hydroxy-3-methyl-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)nicotinonitrile D252
This compound was prepared from 5,6-dichloro-2-(2-isopropoxyethoxy)nicotinonitrile and 3-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol in a similar manner to that of D230. 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 1.0 (d, J=4.5 Hz, 6H), 1.40 (d, J=4.8 Hz, 3H), 3.4-3.47 (m, 3H), 4.07-4.1 (m, 2H), 5.2-5.22 (m, 1H), 7.23 (dd, J=6.0, 1.5 Hz, 1H), 7.36 (s, 1H), 7.75 (d, J=6.0 Hz, 1H), 8.59 (s, 1H), 9.18 (s, 1H).

reactant | 5,6-dichloro-2-(2-isopropoxyethoxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCOC(C)C)Cl | C11H12Cl2N2O2
reactant | 3-methylbenzo[c][1,2]oxaborole-1,5(3H)-diol | CC1C2=C(B(O1)O)C=CC(=C2)O | C8H9BO3
product | 5-Chloro-6-(1-hydroxy-3-methyl-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)-2-(2-isopropoxyethoxy)nicotinonitrile | ClC=1C(=NC(=C(C#N)C1)OCCOC(C)C)OC1=CC2=C(B(OC2C)O)C=C1 | C19H20BClN2O5
